US07495007B2
Preparation of intermediate racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-2′-[2-(2,3-dihydroxy-propoxy)-5-(2-trimethylsilanyl-ethynyl)-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′-dione
To a stirred solution of racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-2′-[2-(2,3-dihydroxy-propoxy)-5-iodo-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′-dione (120 mg, 0.183 mmol) in DMF (2 mL) were added PdCl2(PPh3)2 (15 mg), CuI (2 mg), trimethylsilyl acetylene (Aldrich, 2 mL) and Et3N (Aldrich, 2 mL) and the mixture was purged with nitrogen and then heated at 75° C. for 3 hrs. The mixture was partitioned between ethyl acetate and water. The organic layer was separated, washed with water, brine, dried, and concentrated. The residue was purified by chromatography (0-4% MeOH in EtOAc). Yield 8 mg. MS (H+), 623

reactant | racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-2′-[2-(2,3-dihydroxy-propoxy)-5-iodo-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′-dione | 0.183 mmol, 120 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=CC(=CC=C1)Cl)=O)C1=C(C=CC(=C1)I)OCC(CO)O)=O | C27H23Cl2IN2O5
reactant | trimethylsilyl acetylene | 2 mL | C[Si](C)(C)C#C | C5H10Si
reactant | Et3N | 2 mL | CCN(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 15 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 2 mg | [Cu]I
product | racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-2′-[2-(2,3-dihydroxy-propoxy)-5-(2-trimethylsilanyl-ethynyl)-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′-dione | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=CC(=CC=C1)Cl)=O)C1=C(C=CC(=C1)C#C[Si](C)(C)C)OCC(CO)O)=O | C32H32Cl2N2O5Si
